US08859566B2
A mixture of 8-(4-benzyloxy-phenyl)-2-chloro-1-propyl-1,7-dihydro-purin-6-one (0.298 g, 0.00075 mol) and potassium carbonate (0.311 g, 0.0023 mol), were taken in DMF (2 ml) and 2-(trimethylsilyl)ethoxymethyl chloride (0.4 ml, 0.0023 mol) was added drop wise at 0° C. and the mixture was stirred at 20° C. for 4 hours. The mixture was cooled to 10° C. and diluted with water (10 ml). The aqueous layer was extracted with ethyl acetate (2×10 ml). The organic layer was washed with saturated brine solution (2×15 ml) and dried over Na2SO4. Solvent was removed and the residue was further purified by column chromatography to obtain pure 8-(4-benzyloxy-phenyl)-2-chloro-1-propyl-7-(2-trimethylsilanyl-ethoxymethyl)-1,7-dihydro-purin-6-one (0.278 g, 70%) as off white solid.

reactant | 8-(4-benzyloxy-phenyl)-2-chloro-1-propyl-1,7-dihydro-purin-6-one | 0.00075 mol, 0.298 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NC=2N=C(N(C(C2N1)=O)CCC)Cl | C21H19ClN4O2
reactant | potassium carbonate | 0.0023 mol, 0.311 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 0.0023 mol, 0.4 ml | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | 10 ml | O | H2O
product | 8-(4-benzyloxy-phenyl)-2-chloro-1-propyl-7-(2-trimethylsilanyl-ethoxymethyl)-1,7-dihydro-purin-6-one | 0.278 g, 70% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NC=2N=C(N(C(C2N1COCC[Si](C)(C)C)=O)CCC)Cl | C27H33ClN4O3Si
